US04324796
91.3 g of malonic acid diethyl ester are added dropwise, at 50° C., to a sodium ethylate solution freshly prepared from 13.11 g of sodium and 650 ml of ethanol. The mixture is kept at that temperature for 2.5 hours, and 185 g of p-toluenesulfonic acid [3-(3-chlorophenyl)propyl] ester are then added dropwise. When the addition is complete, the obtained mixture is stirred at 50° C. for 6 hours; 800 ml of water are then added, and the mixture is extracted 3 times with a total of 1 liter of diethyl ether. The combined organic phases are dried over sodium sulfate; the solvent is evaporated off, and the residue is distilled. 74.2 g of 3-(3-chlorophenyl)propylmalonic acid diethyl ester (b.p. 145° to 152° C. under 0.01 mm Hg) are obtained.

reactant | malonic acid diethyl ester | 91.3 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 13.11 g | [Na] | Na
reactant | p-toluenesulfonic acid [3-(3-chlorophenyl)propyl] ester | 185 g | ClC=1C=C(C=CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C16H17ClO3S
solvent | water | 800 ml | O | H2O
solvent | ethanol | 650 ml | C(C)O | C2H6O
product | 3-(3-chlorophenyl)propylmalonic acid diethyl ester | 74.2 g | C(C)OC(C(C(=O)OCC)CCCC1=CC(=CC=C1)Cl)=O | C16H21ClO4
